US05532248
17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2'"-phenyl-2'"-hydroxyethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2'"-phenyl-2'"-oxoethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (350 mg) in THF (6.2 ml) at -78° C. was added L-Selectride (342 μl, 1 eq.) dropwise over 30 minutes. The reaction was stirred for a further 15 minutes after addition and then quenched by pouting into saturated aqueous ammonium chloride solution and extracted into ethyl acetate. The organic phase was dried with magnesium sulphate and concentrated. The crude material was purified by column chromatography on silica gel eluting with 60% hexane:40% ethyl acetate to give the desired product (216 mg).

reactant | 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2'"-phenyl-2'"-oxoethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 350 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC(=O)C2=CC=CC=C2)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C57H89NO13Si
reactant | L-Selectride | 342 μl, 1 eq. | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
solvent | THF | 6.2 ml | C1CCOC1 | C4H8O
product | 17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2'"-phenyl-2'"-hydroxyethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 216 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC(O)C2=CC=CC=C2)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C57H91NO13Si
